US07435815B2
2-[(6-Bromo-5-chloro-pyridine-3-sulfonyl)-p-tolyl-amino]-N,N-diethyl-acetamide
prepared by reaction of 2-bromo-N,N-diethylacetamide with p-toluidine and 6-bromo-5-chloro-pyridine-3-sulfonyl chloride

reactant | 2-bromo-N,N-diethylacetamide | BrCC(=O)N(CC)CC | C6H12BrNO
reactant | p-toluidine | NC1=CC=C(C=C1)C | C7H9N
reactant | 6-bromo-5-chloro-pyridine-3-sulfonyl chloride | BrC1=C(C=C(C=N1)S(=O)(=O)Cl)Cl | C5H2BrCl2NO2S
product | 2-[(6-Bromo-5-chloro-pyridine-3-sulfonyl)-p-tolyl-amino]-N,N-diethyl-acetamide | BrC1=C(C=C(C=N1)S(=O)(=O)N(CC(=O)N(CC)CC)C1=CC=C(C=C1)C)Cl | C18H21BrClN3O3S
